US05547983
Benzyl 6-[3-(1-adamantyl)-4-methoxycarbonylmethyloxyphenyl]-2-naphthoate.
136 mg of 80% sodium hydride in oil are added to a solution of 8 g (16mmol) of benzyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate in 100 ml of DMF. The mixture is left stirring for 1 h and 1.6 ml (16.4 mmol) of methyl bromoacetate are added. The reaction mixture is left stirring overnight, and it is then poured into ice cold water and acidified to pH 2 with concentrated HCl. The solid is filtered and recrystallized from ether. 8.52 g (95%) of the expected derivative are recovered, which derivative melts at 183° C.

reactant | sodium hydride | 136 mg | [H-].[Na+]
reactant | benzyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate | 16mmol, 8 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C=2C=C3C=CC(=CC3=CC2)C(=O)OCC2=CC=CC=C2 | C34H32O3
reactant | methyl bromoacetate | 16.4 mmol, 1.6 ml | BrCC(=O)OC | C3H5BrO2
reactant | HCl | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Benzyl 6-[3-(1-adamantyl)-4-methoxycarbonylmethyloxyphenyl]-2-naphthoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC(=O)OC)C=2C=C3C=CC(=CC3=CC2)C(=O)OCC2=CC=CC=C2 | C37H36O5
